### PR TITLE
[Merged by Bors] - feat: add lemmas about Field.toEuclideanDomain

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
The behaviour of mod and gcd in a field are somewhat unexpected. I think that adding simp lemmas to reduce them to more well-understood notions will be helpful for people who accidentally end up using them, even if the right-hand side is not necessarily "simp"ler on first sight.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/EuclideanDomain/Field.lean [hunk 1]
```diff
@@ -24,3 +28,14 @@ instance (priority := 100) Field.toEuclideanDomain {K : Type*} [Field K] : Eucli
...
   mul_left_not_lt := fun _ _ hnb ⟨hab, hna⟩ => Or.casesOn (mul_eq_zero.1 hab) hna hnb }
+
+@[simp]
+protected theorem mod_eq (a b : K) : a % b = a - a * b / b := rfl
+
+@[simp]
+protected theorem gcd_eq [DecidableEq K] (a b : K) :
+    EuclideanDomain.gcd a b = if a = 0 then b else a := by
+  unfold EuclideanDomain.gcd
+  split_ifs <;> simp [*, Field.mod_eq]
```
Comment (acmepjz) [inline Mathlib/Algebra/EuclideanDomain/Field.lean:39]: Maybe you also want `gcd 0 b = b` and `gcd a b = a` if `a \neq 0` (these two does not require `DecidableEq`)

Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/EuclideanDomain/Field.lean:39]: Calling `EuclideanDomain.gcd` itself already requires `DecidableEq`, I'm afraid. (Maybe it shouldn't, but not touching that here.)

Comment (acmepjz) [reply Mathlib/Algebra/EuclideanDomain/Field.lean:39]: Ahh, I'm sorry, `gcd 0 b = b` is already [EuclideanDomain.gcd_zero_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/EuclideanDomain/Defs.html#EuclideanDomain.gcd_zero_left)

File: Mathlib/Algebra/EuclideanDomain/Field.lean [hunk 2]
```diff
@@ -24,3 +28,22 @@ instance (priority := 100) Field.toEuclideanDomain {K : Type*} [Field K] : Eucli
...
+
+protected theorem gcd_zero_eq [DecidableEq K] (b : K) :
+    EuclideanDomain.gcd 0 b = b := by
+  rw [Field.gcd_eq, if_pos rfl]
+
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/EuclideanDomain/Field.lean:44]:
```suggestion
```

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
